US07691855B2
To the solution of 8.0 g (51 mMol) of 1-chloro-4-nitrobenzene and 6.7 g (6.3 mL; 51 mMol) of N-hydroxyethyl-morpholine in 50 mL of DMF at 0° C. is added 2.7 g of NaH portionwise over 2.5 h. After stirring another hour at rt, the reaction mixture is poured onto 200 mL of water and stirred. The precipitated crystals are filtered and dried at 60° C. under vacuum to obtain 4-[2-(4-nitro-phenoxy)-ethyl]-morpholine. Title compound: ES-MS: 253 [M+H]+; single peak at tR=4.8 min (System 2).

reactant | 1-chloro-4-nitrobenzene | 51 mMol, 8.0 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | N-hydroxyethyl-morpholine | 51 mMol, 6.3 mL, 6.7 g | OCCN1CCOCC1 | C6H13NO2
reactant | NaH | 2.7 g | [H-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-[2-(4-nitro-phenoxy)-ethyl]-morpholine | [N+](=O)([O-])C1=CC=C(OCCN2CCOCC2)C=C1 | C12H16N2O4
